US07598423B2
Synthesis of 1-(2-hydroxy-3-propyl-4-{4-[3-(1H-tetrazol-5-yl)-benzyl]-benzyloxy}-phenyl)-ethanone
The title compound is prepared in a similar manner to 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone employing 3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzyl]-benzonitrile. The crude product is purified via reversed phase C18 preparative chromatography over 8 runs to provide the title compound as a tan solid (6.3 g, 58%). 1H NMR (DMSO-d6) δ 12.86 (s, 1H), 7.96 (s, 1H), 7.86-7.89 (m, 1H), 7.81 (d, 1H), 7.48-7.58 (m, 2H), 7.33-7.42 (m, 4H), 6.73 (d, 1H), 5.23 (s, 2H), 4.08 (s, 2H), 2.56-2.61 (m, 5H), 1.45-1.53 (m, 2H), 0.88 (t, 3H). LCMS M−1 441.

reactant | 1-[4-(4-{fluoro-[3-(1H-tetrazol-5-yl)-phenyl]-methyl}-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | FC(C1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1)C1=CC(=CC=C1)C1=NN=NN1 | C26H25FN4O3
reactant | 3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-benzyl]-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(CC=3C=C(C#N)C=CC3)C=C2)C=C1)CCC)O | C26H25NO3
product | 1-(2-hydroxy-3-propyl-4-{4-[3-(1H-tetrazol-5-yl)-benzyl]-benzyloxy}-phenyl)-ethanone | 6.3 g, 58% | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CC1=CC(=CC=C1)C1=NN=NN1)C(C)=O | C26H26N4O3
